US06313312B1
3-[(E)-3-Hvdroxy-1-methyl-1-propenyl]benzonitrile
To a solution of (E)-3-(3-cyanophenyl)-2-butenoic acid (Preparation 32, 15.83 g, 84.6 mmol) and triethylamine (8.99 g, 88.8 mmol) in tetrahydrofuran (150 ml) at 0° C. was added over 10 minutes ethyl chloroformate (9.65 g, 88.8 mmol). The mixture was then stirred at 0° C. for 30 minutes and at room temperature for a further 30 minutes. The resulting precipitate was collected by filtration and the solid was washed with cold tetrahydrofuran (2×30 ml). The preformed mixed anhydride in tetrahydrofuran was then added over 30 minutes via cannula to sodium borohydride (11.2 g, 0.30 mol) in a mixture of tetrahydrofuran/water (4:1, lOoml) at 0° C. The resultant mixture was stirred at 0° C. for 1 h, at room temperature for 3 h and then cooled to 0° C. 2N Hydrochloric acid was added cautiously until effervescence had ceased. The mixture was concentrated in vacuo and 1N hydrochloric acid (100 ml) was added. The aqueous solution was extracted with ethyl acetate (3×150 ml) and the combined extracts were dried (MgSO4), filtered and concentrated in vacuo. The crude oil was purified by silica column chromatography eluting with a gradient of ethyl acetate:hexane (1:1 to 100:0). An impurity, unreacted starting carboxylic acid, was removed by a basic wash with 2N sodium hydroxide solution (150 ml) and the pure product was extracted with dichloromethane (3×100 ml). The combined extracts were dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a colourless oil (11.9 g, 82%).

reactant | (E)-3-(3-cyanophenyl)-2-butenoic acid | 84.6 mmol, 15.83 g | C(#N)C=1C=C(C=CC1)/C(=C/C(=O)O)/C | C11H9NO2
reactant | triethylamine | 88.8 mmol, 8.99 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 88.8 mmol, 9.65 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 0.30 mol, 11.2 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | O1CCCC1.O
product | 3-[(E)-3-Hvdroxy-1-methyl-1-propenyl]benzonitrile | 11.9 g, 82% | OC/C=C(\C)/C=1C=C(C#N)C=CC1 | C11H11NO
